US09328117B2
To a solution of 3,6-dichloropyridazin-4-carboxylic acid (5 g, 26 mmol) in EtOH (200 mL) was added TEA (4 mL, 30 mmol) and hydrazine (5 mL, 80%). The reaction mixture was stirred at 85° C. for 3 hours. After cooled to room temperature, the mixture was concentrated in vacuum to give crude product 6-chloro-3-hydrazinylpyridazine-4-carboxylic acid (4.8 g), which was used for the next step directly without purification. LRMS (M+H+) m/z: calcd 189; found 189.

reactant | 3,6-dichloropyridazin-4-carboxylic acid | 26 mmol, 5 g | ClC=1N=NC(=CC1C(=O)O)Cl | C5H2Cl2N2O2
reactant | hydrazine | 5 mL | NN | H4N2
solvent | EtOH | 200 mL | CCO | C2H6O
product | 6-chloro-3-hydrazinylpyridazine-4-carboxylic acid | 4.8 g | ClC1=CC(=C(N=N1)NN)C(=O)O | C5H5ClN4O2
